US08022063B2
[4-Chloro-3-methyl-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid.
Prepared from (3-chloro-6-hydroxy-2-methyl-phenyl)-(1-phenyl-1H-pyrazol-4-yl)methanone and ethyl bromoacetate according to GP2 and GP3: LC/MS (an10p8): Rt 3.34 min, m/z 370.6 [M+1]+; 1H NMR (CDCl3): δ 2.44 (s, 3H), 4.77 (s, 2H), 6.92 (s, 1H), 7.39 (d, J=9.0 Hz, 1H), 7.46-7.51 (m, 2H), 7.59 (s, 1H), 7.72 (d, J=9.0 Hz, 2H), 8.19 (s, 1H), 8.52 (s, 1H), 10.39 (br s, 1H)

reactant | (3-chloro-6-hydroxy-2-methyl-phenyl)-(1-phenyl-1H-pyrazol-4-yl)methanone | ClC=1C(=C(C(=CC1)O)C(=O)C=1C=NN(C1)C1=CC=CC=C1)C | C17H13ClN2O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | [4-Chloro-3-methyl-2-(1-phenyl-1H-pyrazole-4-carbonyl)phenoxy]acetic acid | ClC1=C(C(=C(OCC(=O)O)C=C1)C(=O)C=1C=NN(C1)C1=CC=CC=C1)C | C19H15ClN2O4
